US05447957
a) Methyl 2-(2-nitrophenoxy)benzoate
Methyl salicylate (1.7 mL, 0.0131 mol), 1-chloro-2-nitrobenzene (2.30 mL, 0.01965 mol) and potassium carbonate (3.62 g, 0.0262 mol) were mixed in dimethylformamide (35 mL), under argon, at 150° C. for 16 h. The solvent was evaporated and the crude material was flash chromatographed (silica gel, ethyl acetate/hexane). Concentration in vacuo yielded the title compound. 1H NMR (250 MHz, CDCl3) δ8.0 (m, 4H), 7.58 (m, 1H), 7.35 (m, 1H), 7.23 (m, 1H), 7.13 (dd, 1H), 6.85 (dd, 2H).

reactant | Methyl salicylate | 0.0131 mol, 1.7 mL | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | 1-chloro-2-nitrobenzene | 0.01965 mol, 2.30 mL | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | potassium carbonate | 0.0262 mol, 3.62 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | Methyl 2-(2-nitrophenoxy)benzoate | [N+](=O)([O-])C1=C(OC2=C(C(=O)OC)C=CC=C2)C=CC=C1 | C14H11NO5
